### PR TITLE
[Merged by Bors] - feat: locally compact topological group is complete (for its right uniformity)

### PR DESCRIPTION
**Pull request by bwangpj**
See also [zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/416277-FLT/topic/Are.20the.20adeles.20Polish.3F)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean [hunk 1]
```diff
@@ -186,6 +186,30 @@ theorem topologicalGroup_is_uniform_of_compactSpace [CompactSpace G] : IsUniform
...
+        rw [uniformity_eq_comap_nhds_one']; exact preimage_mem_comap hK'₁
+      obtain ⟨S, hSf, hSU⟩ : ∃ S ∈ f, S ×ˢ S ⊆ U := by
+        rcases mem_prod_iff.1 (hfG hU) with ⟨A, hA, B, hB, hAB⟩
+        exact ⟨A ∩ B,
+          ⟨inter_mem_iff.mpr ⟨hA, hB⟩, (prod_mono inter_subset_left inter_subset_right).trans hAB⟩⟩
+      obtain ⟨x, hx⟩ := f.nonempty_of_mem hSf
+      exact ⟨K' <• x, hK'.smul (MulOpposite.op x),
+        mem_of_superset hSf (fun y hy ↦ ⟨y / x, hSU <| mk_mem_prod hx hy, by simp⟩)⟩
+    obtain ⟨x, hx, h⟩ := hK.isComplete f ⟨hfn, hfG⟩ <| le_principal_iff.mpr hKf
+    exact ⟨x, h⟩
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean]: Thanks a lot for starting on this! This proof can be cleaned a bit using our filter library, which prevents having to manipulate sets explicitly. I would suggest the following (which needs an `open MulOpposite`) for example:
```suggestion
    have : f.NeBot := hf.1
    obtain ⟨K, K_compact, K_mem⟩ := WeaklyLocallyCompactSpace.exists_compact_mem_nhds (1 : G)
    obtain ⟨x, hx⟩ : ∃ x, ∀ᶠ y in f, y / x ∈ K := by
      rw [cauchy_iff_le, uniformity_eq_comap_nhds_one', ← tendsto_iff_comap] at hf
      exact hf.eventually_mem K_mem |>.curry.exists
    simp_rw [div_eq_mul_inv, ← op_smul_eq_mul, op_inv, ← mem_smul_set_iff_inv_smul_mem] at hx
    have Kx_complete : IsComplete (K <• x) := K_compact.smul _ |>.isComplete
    obtain ⟨l, -, hl⟩ := Kx_complete f hf (by simpa using hx)
    exact ⟨l, hl⟩
 ```

The first two line are similar to what you're doing (but I prefer not to break the `Cauchy` hyp, since we are going to use it later).
Then the magic happens in
```lean
    obtain ⟨x, hx⟩ : ∃ x, ∀ᶠ y in f, y / x ∈ K := by
      rw [cauchy_iff_le, uniformity_eq_comap_nhds_one', ← tendsto_iff_comap] at hf
      exact hf.eventually_mem K_mem |>.curry.exists
```
The `rw` is just turning  `Cauchy f` into `Tendsto (fun p ↦ p.2 / p.1) (f ×ˢ f) (𝓝 1)`. 
Then, using [Filter.Tendsto.eventually_mem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Tendsto.html#Filter.Tendsto.eventually_mem) I get `∀ᶠ (x : G × G) in f ×ˢ f, x.2 / x.1 ∈ K`.
Then, using [Filter.Eventually.curry](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Prod.html#Filter.Eventually.curry), I turn this into `∀ᶠ x in f, ∀ᶠ y in f, y / x ∈ K`.
And finally, using [Filter.Eventually.exists](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Basic.html#Filter.Eventually.exists) (which needs the filter to be nontrivial) I pick an element `x` such that `∀ᶠ y in f, y / x ∈ K`.

The end of the proof is then more typical: I rewrite `y / x ∈ K` to `y ∈ K <• x`, which is complete, hence `f` is a Cauchy filter supported on a complete subset, hence it has a limit.

I don't want to sound like "thanks for doing the proof, actually this one is better", if you prefer your argument we can keep it, but I think this is a good illustration of how the filter library allows hiding such things under the rug.

File: Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean [hunk 2]
```diff
@@ -186,6 +186,30 @@ theorem topologicalGroup_is_uniform_of_compactSpace [CompactSpace G] : IsUniform
 
 variable {G}
 
+open Set in
+open scoped RightActions in
+/-- A (weakly) locally compact topological group is complete for its right uniformity. -/
+@[to_additive
+/-- A (weakly) locally compact topological additive group is complete for its right uniformity. -/]
+theorem IsTopologicalGroup.completeSpace_of_weaklyLocallyCompactSpace
+    [WeaklyLocallyCompactSpace G] : CompleteSpace G where
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean]: Completely independent from the question of the proof, there is an issue with the *statement*: since `CompleteSpace` makes reference to the uniform structure, this will only ever apply if the `UniformSpace` instance on your type is *definitionally* `IsTopologicalGroup.rightUniformSpace`. This is bad: for example, this will never apply to subgroups, because their uniform structure is [instUniformSpaceSubtype](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/Basic.html#instUniformSpaceSubtype).

To fix this, you should assume that `G` comes with a pre-existing uniform structure, and that it satisfies [IsRightUniformGroup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/IsUniformGroup/Defs.html#IsRightUniformGroup).

(Since `IsRightUniformGroup` is a recent addition with not much API, you can also stick to `IsUniformGroup` if you prefer).

Note that this issue doesn't apply to the few lemmas already in this section, because their *statements* don't mention the uniform structure (although they use the right uniform structure in the proofs).

File: Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean (hunk 1 above)
Comment (bwangpj) [reply Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean]: Thank you very much! This is very helpful and indeed the proof is much cleaner now. I guess the problem was I didn't find (or missed) `Filter.Eventually.curry` and so had to go about things in a slightly round-about way.

File: Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean (hunk 2 above)
Comment (bwangpj) [reply Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean]: Ah ok, yep that makes sense. Actually that was what I did originally on zulip (using `IsUniformGroup`), but I had thought of making a 'more general' statement by assuming `IsTopologicalGroup` instead, which is indeed bad. I'll use `IsRightUniformGroup` instead

**Comment by bwangpj** [comment]
-awaiting-author

File: Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean [hunk 3]
```diff
@@ -78,6 +78,30 @@ end IsUniformGroup
...
 end Cauchy
 
+namespace IsRightUniformGroup
+
+variable {G : Type*} [Group G] [UniformSpace G] [IsRightUniformGroup G]
+
+open scoped RightActions in
+/-- A (weakly) locally compact right-uniform group is complete. -/
+@[to_additive
+/-- A (weakly) locally compact right-uniform additive group is complete. -/]
```
Comment (plp127) [inline Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean]: Weakly locally compact is equivalent to locally compact in the case of a topological group, and this fact is available to typeclass. Should we use `LocallyCompactSpace G` as the assumption here then?

Comment (ocfnash) [reply Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean]: Let's go with `WeaklyLocallyCompactSpace` since (in theory) it gives type typeclass inference an easier duty, even though it is a bit weird to talk about _weakly_ locally compact topological groups.

File: Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean [hunk 4]
```diff
@@ -78,6 +78,30 @@ end IsUniformGroup
 
 end Cauchy
 
+namespace IsRightUniformGroup
+
+variable {G : Type*} [Group G] [UniformSpace G] [IsRightUniformGroup G]
+
+open scoped RightActions in
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean]: Let's drop this here and instead add it as the first line of the proof (since it is needed only for the proof and not the statement)
```suggestion
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean]: I vote for removing the "weakly" in the docstring without changing the statement.
